US05763489
To a solution of methyl (5-methoxy-3,4-dihydro-2-naphthyl)formate (0.75 g) in toluene (10 ml) was added dropwise a solution of diisobutylaluminum hydride [1.02N in toluene (6.7 ml)] at 4° C.~6° C. under nitrogen atmosphere. The reaction mixture was stirred under same conditions for 2.5 hours. The mixture was poured into a saturated ammonium chloride solution, and the organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo to give crude (5-methoxy-3,4-dihydro-2-naphthyl)methanol as a colorless oil (0.66 g).

reactant | methyl (5-methoxy-3,4-dihydro-2-naphthyl)formate | 0.75 g | COC1=C2CCC(=CC2=CC=C1)C(=O)OC | C13H14O3
reactant | diisobutylaluminum hydride | 1.02N, 6.7 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (5-methoxy-3,4-dihydro-2-naphthyl)methanol | 0.66 g | COC1=C2CCC(=CC2=CC=C1)CO | C12H14O2
